US04452809
Trans-4-(4-methoxyphenoxy)-1-phenylmethyl-3-pyrrolidinol
A mixture of 17.5 g. (0.10 mole) of 1-benzyl-3,4-epoxypyrrolidine, 13.4 g. (0.11 mole) of p-methoxyphenol, and 3 drops of water was heated on a steam bath overnight. The dark residue was dissolved in methylene chloride and the solution was washed with two 50-ml. portions of 5% sodium hydroxide. The methylene chloride layer was dried over anhydrous sodium sulfate and concentrated to give 23.7 g. of viscous dark oil. This oil was chromatographed on 480 g. of silica gel 60 and the product was eluted with a 1:1 benzene:ether solution. The appropriate fractions were concentrated to give 10.0 g. of a yellow oil which crystallized upon scratching. The solid was recrystallized from cyclohexane to yield 7.2 g. (24%) tan solid, m.p. 84°-5° C.

reactant | 1-benzyl-3,4-epoxypyrrolidine | 0.10 mole | C(C1=CC=CC=C1)N1CC2C(C1)O2 | C11H13NO
reactant | p-methoxyphenol | 0.11 mole | COC1=CC=C(C=C1)O | C7H8O2
catalyst | water | 3 drops | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Trans-4-(4-methoxyphenoxy)-1-phenylmethyl-3-pyrrolidinol | COC1=CC=C(O[C@H]2[C@@H](CN(C2)CC2=CC=CC=C2)O)C=C1 | C18H21NO3
